simulator lang=spectre
global 0

ahdl_include "./dut/logarithmic_amplifier.va"

Vin (sigin 0) vsource type=pwl wave=[0 0.25 8n 0.25 8.1n -0.4 18n -0.4 18.1n 1.5 28n 1.5 28.1n 0.2 45n 0.2]

XDUT (sigin sigout) logarithmic_amplifier


tran tran stop=40n maxstep=25p
save sigin sigout
