simulator lang=spectre
global 0

ahdl_include "./dut/pa_compression_macro.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2n width=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 80n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.45 7.9n 0.45 8n 0.53 23.9n 0.53 24n 0.85 45.9n 0.85 46n 0.05 65.9n 0.05 66n 0.58 80n 0.58]

XDUT (clk rst vin out metric) pa_compression_macro


tran tran stop=80n maxstep=0.5n
save clk rst vin out metric
