simulator lang=spectre
global 0

ahdl_include "./dut/absolute_value_behavior.va"

Vin (sigin 0) vsource type=pwl wave=[0 0.6 0.7n 0.6 0.75n -0.75 1.4n -0.75 1.45n -0.03 2.1n -0.03 2.15n 0.0 2.8n 0.0 2.85n 0.45 3.6n 0.45]

XDUT (sigin sigout) absolute_value_behavior


tran tran stop=3.4n maxstep=5p
save sigin sigout
