simulator lang=spectre
global 0

ahdl_include "./dut/absolute_value.va"

Vin (sigin 0) vsource type=pwl wave=[0 -0.8 0.8n -0.8 0.85n -0.2 1.6n -0.2 1.65n 0.03 2.4n 0.03 2.45n 0.7 3.2n 0.7]
XDUT (sigin sigout) absolute_value

simulatorOptions options evas_profile=balanced

tran tran stop=3.0n maxstep=5p
save sigin sigout
