simulator lang=spectre
global 0

ahdl_include "./dut/accum3_pulse.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=0.35n rise=20p fall=20p width=0.2n period=1n
XDUT (clk out) accum3_pulse

simulatorOptions options evas_profile=balanced

tran tran stop=9.4n maxstep=5p
save clk out
